US04130654
The diisopropyl-(benzylthio)-terephthalate obtained in Preparation 2 is refluxed with 500 ml. of methanol, 25 g. of potassium hydroxide and 50 ml. of water for 2 hours. The reaction mixture is then concentrated to a small volume, cooled, diluted with water and filtered through diatomaceous earth (Celite). The thus-obtained filtrate is acidified with 4N hydrochloric acid and the precipitate with forms is collected by filtraton and dried in an oven at 90°-100° C. to yield 45 g. (yield 87%) of (benzylthio)-terephthalic acid having a melting point of 299°-300° C.

reactant | diisopropyl-(benzylthio)-terephthalate | C(C)(C)C=1C(=C(C(=C(C(=O)[O-])C1)SCC1=CC=CC=C1)C(C)C)C(=O)[O-]
reactant | methanol | CO | CH4O
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | (benzylthio)-terephthalic acid | yield 87% | C(C1=CC=CC=C1)SC1=C(C(=O)O)C=CC(=C1)C(=O)O | C15H12O4S
